US09447030B2
To a stirred solution of tort-butyl (2-isobutyramido-4-(thiophen-2-yl)phenyl)carbamate (0.2 g, 0.52 mmol) in methanol (4 mL) was added 4M HCl in Dioxane (2 mL, 0.53 mmol, 1 equiv.) at 0° C. The reaction was warmed to room temperature and stirred for 2 h. After completion the reaction was concentrated under reduced pressure then basified with a saturated aqueous solution of NaHCO3. The obtained solid was filtered and dried. The crude material was purified by column chromatography (silica gel, MeOH/CH2Cl2) to afford N-(2-amino-5-(thiophen-2-yl)phenyl)isobutyramide (0.05 mg, 36% yield). ESI+ MS: ink 261 ([M+H]+), 1H NMR (500 MHz, d6-DMSO): δ 9.10 (s, 1H0, 7.5 (s, 1H0, 7.34 (d, J=4.5 Hz, 1H), 7.23-7.19 (m, 2H), 7.05-7.03 (m, 1H0, 6.75 (d, J=8.5 hz, 1H0, 5.03 (s, 2H), 2.67-2.64 (m, 1H), 1.13 (d, J=7 Hz, 6H).

reactant | butyl (2-isobutyramido-4-(thiophen-2-yl)phenyl)carbamate | 0.52 mmol, 0.2 g | C(C(C)C)(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(OCCCC)=O | C19H24N2O3S
reactant | HCl | 4M | Cl | ClH
reactant | Dioxane | 0.53 mmol, 2 mL, 1 equiv. | O1CCOCC1 | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
product | N-(2-amino-5-(thiophen-2-yl)phenyl)isobutyramide | 0.05 mg, 36% yield | NC1=C(C=C(C=C1)C=1SC=CC1)NC(C(C)C)=O | C14H16N2OS
